US05262420
Preparation of 1-(2-fluorophenyl)-4-(4-pyridyl)-pentane
1.62 g (15.1 mmol) of 4-ethylpyridine and 3.3 g (15.1 mmol) of 1-bromo-3-(2-fluorophenyl)-propane were reacted in the same manner as in Example 26. The reaction product was purified to obtain 2.64 g of the desired compound (yield: 71.6%). The resulting compound was identified as 1-(2-fluorophenyl)-4-(4-pyridyl)-pentane (hereinafter referred to as compound 40) by the following analytical results.

reactant | 4-ethylpyridine | 15.1 mmol, 1.62 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | 1-bromo-3-(2-fluorophenyl)-propane | 15.1 mmol, 3.3 g | BrCCCC1=C(C=CC=C1)F | C9H10BrF
product | 1-(2-fluorophenyl)-4-(4-pyridyl)-pentane | 2.64 g, yield: 71.6% | FC1=C(C=CC=C1)CCCC(C)C1=CC=NC=C1 | C16H18FN
